US07173031B2
B) 4-(2-Fluoro-4-nitrophenoxy)pyrrolo[2,1-f][1,2,4]triazine
4-Chloropyrrolo[2,1-f][1,2,4]triazine (4.1 g, 27 mmol), 2-fluoro-4-nitrophenol (5.0 g, 32 mmol), and potassium carbonate (7.4 g, 53 mmol) in 100 mL of dimethylformamide was stirred at 60° C. for 15 h. After cooling to room temperature, the reaction mixture was filtered through a plug of silica gel with EtOAc. The filtrate was concentrated in vacuo and the resulting crude product was purified by flash chromatography on silica gel (SiO2, EtOAc/Hexane 1:4) to give the title compound (4.25 g, 58%) as a white solid. 1H NMR (CDCl3) δ 8.09 (m, 2H), 7.88 (s, 1H), 7.77 (dd, 1H, J=2.6, 1.2 Hz), 7.46 (t, 1H, J=7.6 Hz), 6.98 (dd, 1H, J=4.6, 1.4 Hz), 6.84 (dd, 1H, J=4.5, 2.6 Hz); 13C NMR (CDCl3) δ 160.6, 154.3 (J=254 Hz), 146.5, 145.8, 144.8 (J=12.9 Hz), 125.0, 121.7, 120.7, 114.5, 113.9, 113.6 (J=23.2 Hz), 103.6.

reactant | 4-Chloropyrrolo[2,1-f][1,2,4]triazine | 27 mmol, 4.1 g | ClC1=NC=NN2C1=CC=C2 | C6H4ClN3
reactant | 2-fluoro-4-nitrophenol | 32 mmol, 5.0 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | potassium carbonate | 53 mmol, 7.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(2-Fluoro-4-nitrophenoxy)pyrrolo[2,1-f][1,2,4]triazine | 4.25 g, 58% | FC1=C(OC2=NC=NN3C2=CC=C3)C=CC(=C1)[N+](=O)[O-] | C12H7FN4O3
